US07262201B1
Using a procedure analogous to that described in Example 15, 4-chloro-6,7-dimethoxyquinazoline (224 mg, 1 mol), (prepared as described for the starting material in Example 1), was reacted with 3-amino-5-phenyl-4H-pyrazole (183 mg, 1.16 mol) to give 6,7-dimethoxy-4-(5-phenylpyrazol-3-ylamino)quinazoline hydrochloride (328 mg, 94%).

reactant | 4-chloro-6,7-dimethoxyquinazoline | 1 mol, 224 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 3-amino-5-phenyl-4H-pyrazole | 1.16 mol, 183 mg | NC1=NN=C(C1)C1=CC=CC=C1 | C9H9N3
product | 6,7-dimethoxy-4-(5-phenylpyrazol-3-ylamino)quinazoline hydrochloride | 328 mg, 94% | Cl.COC=1C=C2C(=NC=NC2=CC1OC)NC1=NNC(=C1)C1=CC=CC=C1 | InChI=1S/C19H17N5O2.ClH/c1-25-16-8-13-15(9-17(16)26-2)20-11-21-19(13)22-18-10-14(23-24-18)12-6-4-3-5-7-12;/h3-11H,1-2H3,(H2,20,21,22,23,24);1H
